US04211548
2-Ethoxyethyl-N-[bis(butylthio)phosphinothioylmethyl]-N-(benzyloxycarbonyl)glycine (9.2 g., 0.017 mole) was dissolved in 30 ml. of 35% hydrobromic acid in acetic acid. The reaction was stirred for approximately 6 hours. Diethyl ether was added which precipitated a viscous oil. The oil was washed three additional times with diethyl ether and then dissolved in benzene. The benzene solution was treated with excess propylene oxide. The propylene oxide treated solution was concentrated in vacuo and the residue chromatographed on silica gel employing diethyl ether as an eluant to yield 2-ethoxyethyl-N-[bis(butylthio)phosphinothioylmethyl]glycine as an oil, ND25 =1.5490, which gave the following analysis.

reactant | 2-Ethoxyethyl-N-[bis(butylthio)phosphinothioylmethyl]-N-(benzyloxycarbonyl)glycine | 0.017 mole, 9.2 g | C(C)OCCC(N(C(=O)OCC1=CC=CC=C1)CP(=S)(SCCCC)SCCCC)C(=O)O | C23H38NO5PS3
reactant | hydrobromic acid | Br | BrH
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-ethoxyethyl-N-[bis(butylthio)phosphinothioylmethyl]glycine | C(C)OCCN(CC(=O)O)CP(=S)(SCCCC)SCCCC | C15H32NO3PS3
